US06846835B2
Synthesis of t-butyl 4-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-methylphenyl)ethanoyloxy)tetrahydropyridine-1(2H)-carboxylate
To a solution of 42 mg of t-butyl 4-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-((acetyloxy)methyl)phenyl)-ethanoyloxy)tetrahydropyridine-1(2H)-carboxylate in 1 ml of methanol, 20 mg of palladium hydroxide-carbon catalyst was added, followed by 16 hours' stirring at ambient temperature and pressure in hydrogen atmosphere. The reaction liquid was filtered with Celite and the solvent was distilled off under reduced pressure to provide 37 mg of the title compound.

reactant | t-butyl 4-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-((acetyloxy)methyl)phenyl)-ethanoyloxy)tetrahydropyridine-1(2H)-carboxylate | 42 mg | FC1(C[C@@H](CC1)[C@](C(=O)OC1CCN(CC1)C(=O)OC(C)(C)C)(C1=CC=C(C=C1)COC(C)=O)O)F | C26H35F2NO7
solvent | methanol | 1 ml | CO | CH4O
catalyst | palladium hydroxide carbon | 20 mg | [OH-].[Pd+2].[OH-].[C]
solvent | hydrogen | [H][H] | H2
product | t-butyl 4-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-methylphenyl)ethanoyloxy)tetrahydropyridine-1(2H)-carboxylate | 37 mg | FC1(C[C@@H](CC1)[C@](C(=O)OC1CCN(CC1)C(=O)OC(C)(C)C)(C1=CC=C(C=C1)C)O)F | C24H33F2NO5
